US08071710B2
Synthesis of 2,3-Dihydroxyquinoxaline
To a 2 L flask were added 280.0 g of oxalic acid dihydrate (2.221 moles) and then 1 L of distilled water. Then the mixture was heated to 90° C. After complete dissolution of oxalic acid, 400 mL of concentrated hydrochloric acid was added, followed by addition of 220.0 g of o-phenylenediamine (2.034 moles). The temperature was maintained at 90° C. for 30 minutes with continuous stirring. Off-white crystals were formed. After cooling to room temperature, the off-white crystals were collected by filtration, washed first with water, then with methanol and dried under reduced pressure to give 315.8 g (96%) of off-white needles: mp>350° C.

reactant | oxalic acid dihydrate | 2.221 moles, 280.0 g | O.O.C(C(=O)O)(=O)O
reactant | oxalic acid | C(C(=O)O)(=O)O | C2H2O4
reactant | hydrochloric acid | 400 mL | Cl | ClH
reactant | o-phenylenediamine | 2.034 moles, 220.0 g | C1(=C(C=CC=C1)N)N | C6H8N2
solvent | water | 1 L | O | H2O
product | 2,3-Dihydroxyquinoxaline | 315.8 g, 96% | OC1=NC2=CC=CC=C2N=C1O | C8H6N2O2
